US06087380
c) Methyl 2-methoxymethyl-thiazolo[5,4-b]pyridin-6-yl-carboxylate
A mixture of 0.53 g (2.05 mMol) of methyl 6-chloro-5-methoxyacetamido-nicotinate and 0.42 g (1.0 mMol) of Lawessons reagent was refluxed for 16 hours in 25 ml of xylene. After the solvent had been removed in vacuo the crude product obtained was purified by flash chromatography (silica gel; methylene chloride/ethanol=100:1) and evaporated down again in vacuo. Yield: 0.33 g (67% of theory) of yellow amorphous solid, Rf value: 0.52 (silica gel; ethyl acetate/petroleum ether=1:4)

reactant | methyl 6-chloro-5-methoxyacetamido-nicotinate | 2.05 mMol, 0.53 g | ClC1=NC=C(C(=O)OC)C=C1NC(COC)=O | C10H11ClN2O4
reactant | Lawessons reagent | 1.0 mMol, 0.42 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | xylene | 25 ml | C=1(C(=CC=CC1)C)C | C8H10
product | Methyl 2-methoxymethyl-thiazolo[5,4-b]pyridin-6-yl-carboxylate | COCC=1SC2=NC=C(C=C2N1)C(=O)OC | C10H10N2O3S
